US08133910B2
2-Ethyl-6-methyl-4-[5-(5-propyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenol is prepared in analogy to Example 1 starting from 5-propyl-thiophene-2-carboxylic acid and 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine; LC-MS: tR=1.12 min, [M+1]+=329.14.

reactant | 5-propyl-thiophene-2-carboxylic acid | C(CC)C1=CC=C(S1)C(=O)O | C8H10O2S
reactant | 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine | C(C)C=1C=C(C(=N)NO)C=C(C1O)C | C10H14N2O2
product | 2-Ethyl-6-methyl-4-[5-(5-propyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenol | C(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C=1SC(=CC1)CCC)C)O | C18H20N2O2S
